US06153604
To a solution of 2,5-dibromoaniline (Aldrich, 1.5 g, 6 mmol) in methanol (5 mL) was added methanolic HCl (1M, 30 mL) at 4° C., then the reaction mixture was stirred at 25° C. for 30 minutes. The reaction mixture became a light brown solution with a white precipitate. The precipitate was collected by filtration, washed with diethylether (2 mL), and dried under vacuum to afford 1.6 g of 2,5-dibromoaniline hydrochloride (93% yield).

reactant | 2,5-dibromoaniline | 6 mmol, 1.5 g | BrC1=C(N)C=C(C=C1)Br | C6H5Br2N
reactant | HCl | 1M, 30 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 2,5-dibromoaniline hydrochloride | 1.6 g, 93% yield | Cl.BrC1=C(N)C=C(C=C1)Br | InChI=1S/C6H5Br2N.ClH/c7-4-1-2-5(8)6(9)3-4;/h1-3H,9H2;1H
